US08017775B2
5-Hydroxymethyl-6-(2-trifluoromethylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 6-1)
5-Hydroxymethyl-6-(2-hydroxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1,293 mg, 0.992 mmol) was dissolved in anhydrous dichloromethane (5 mL) and then triethylamine (167 μL, 1.20 mmol) and trifluoromethanesulfonyl chloride (106 μL, 0.996 mmol) were added thereto at 0° C. After the reaction mixture was stirred at 0° C. for 1 hour, it was diluted with chloroform (20 mL). The whole was washed with saturated aqueous NaHCO3 solution (20 mL) and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (177 mg) as an orange solid. (Yield 42%)

reactant | 5-Hydroxymethyl-6-(2-hydroxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)O)(C)C)C | C19H21NO2
reactant | triethylamine | 1.20 mmol, 167 μL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 0.996 mmol, 106 μL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Hydroxymethyl-6-(2-trifluoromethylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 177 mg, Yield 42% | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)(C)C)C | C20H20F3NO4S
